US09056873B2
In a 30 mL sealed cap glass vessel, tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (119 mg, 0.238 mmol), 1,3-dimethyl-5-(tributylstannyl)-1H-thieno[3,2-c]pyrazole (210 mg, 0.476 mmol) and tetrakis(triphenylphosphine)palladium(0) (137 mg, 0.119 mmol) were dissolved in toluene (5 mL). The cap was sealed and the reaction mixture was heated at 90° C. in an oil bath for 2 hours. The mixture was concentrated to give the intermediate, tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-4-(1-methyl-1H-thieno[3,2-c]pyrazol-5-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate. The intermediate was dissolved in TFA (5 mL) and the reaction mixture was stirred for 1 hour. The mixture was concentrated, dissolved in DMSO (5 mL), and purified via preparatory HPLC eluting with a gradient of 15-50% ACN (0.035% TFA) and H2O (0.05% TFA). The pure fractions were combined, evaporated to a minimal volume, and lyophilized to give a TFA salt of the title compound as a white solid (65 mg, 68%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.79 (d, J=10.86 Hz, 1H), 2.04-2.26 (m, 1H), 3.55-3.68 (m, 2H), 3.80 (d, J=11.62 Hz, 1H), 3.89 (br s, 1H), 3.99 (s, 3H), 4.02-4.06 (m, 1H), 4.33 (td, J=8.27, 4.67 Hz, 1H), 4.45 (s, 2H), 7.40 (d, J=5.05 Hz, 1H), 7.74 (d, J=0.76 Hz, 1H), 7.96 (d, J=4.55 Hz, 2H), 8.65 (s, 1H), 9.28 (d, J=0.76 Hz, 1H). ESI-MS m/z [M+H]+ calc'd for C18H19FN6O2S, 403. found, 403.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.238 mmol, 119 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
reactant | 1,3-dimethyl-5-(tributylstannyl)-1H-thieno[3,2-c]pyrazole | 0.476 mmol, 210 mg | CN1N=C(C2=C1C=C(S2)[Sn](CCCC)(CCCC)CCCC)C
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.119 mmol, 137 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-4-(1-methyl-1H-thieno[3,2-c]pyrazol-5-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CC=3N(N=CC3S1)C)C(N(C2)C(=O)OC(C)(C)C)=O)F | C28H35FN6O6S
